************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: OAI211X4
* View Name:     schematic
* Netlisted on:  Jun  4 07:47:07 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    OAI211X4
* View Name:    schematic
************************************************************************

.SUBCKT OAI211X4 A0 A1 B0 C0 VDD VSS Y
*.PININFO A0:I A1:I B0:I C0:I VDD:I VSS:I Y:O
Mmn1 n0 A1 VSS VSS g45n1svt m=1 l=45n w=1.04u
Mmn0 n0 A0 VSS VSS g45n1svt m=1 l=45n w=1.04u
Mmn2 n1 B0 n0 VSS g45n1svt m=1 l=45n w=1.04u
Mmn3 Y C0 n1 VSS g45n1svt m=1 l=45n w=1.04u
Mmp1 Y A1 n2 VDD g45p1svt m=1 l=45n w=1.56u
Mmp0 n2 A0 VDD VDD g45p1svt m=1 l=45n w=1.56u
Mmp3 Y C0 VDD VDD g45p1svt m=1 l=45n w=1.56u
Mmp2 Y B0 VDD VDD g45p1svt m=1 l=45n w=1.56u
.ENDS

